US08835428B2
Step 2: 3-(4-Amino-phenyl)-5-phenyl-isoxazole-4-carboxylic acid ethyl ester
The title compound was prepared using 3-(4-nitro-phenyl)-5-phenyl-isoxazole-4-carboxylic acid ethyl ester by the same procedure as described for the preparation of 3-(4-amino-phenyl)-isoxazol-5-carboxylic acid ethyl ester in Example 1. The reaction mixture was refluxed for 16 hours instead of heating at 80° C. for 3 hours. The crude product was purified by flash chromatography over silica gel with 10% EtOAc in chloroform to give the title compound in 74% yield. IR (KBr): 3374, 1712 (br), 1628, 1610, 1439; 1H NMR (DMSO-d6) δ: 1.15 (t, 3H), 4.20 (q, 2H), 5.57 (s, 2H), 6.63 (d, 2H), 7.34 (d, 2H), 7.53-7.62 (m, 3H), 7.75-7.89 (m, 2H); Mass (ES+), 309 (M++1).

reactant | 3-(4-nitro-phenyl)-5-phenyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C18H14N2O5
reactant | 3-(4-amino-phenyl)-isoxazol-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=NO1)C1=CC=C(C=C1)N | C12H12N2O3
product | 3-(4-Amino-phenyl)-5-phenyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C1=CC=CC=C1)C1=CC=C(C=C1)N | C18H16N2O3
